US05409956
6.45 g (22.1 mmol) of benzyl-4-(indan-2-yl)-2-butenoate was dissolved in 120 ml of methanol, to which 0.6 g of 10% palladium on carbon was added and stirred vigorously for 2.5 hours in the stream of hydrogen. The catalyst was removed by filtration, the filtrate was condensed to obtain 3.84 g of crystalline 4-(indan-2-yl)butanoic acid. Yield: 85%

reactant | benzyl-4-(indan-2-yl)-2-butenoate | 22.1 mmol, 6.45 g | C(C1=CC=CC=C1)OC(C=CCC1CC2=CC=CC=C2C1)=O | C20H20O2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 120 ml | CO | CH4O
catalyst | palladium on carbon | 0.6 g | [Pd] | Pd
product | 4-(indan-2-yl)butanoic acid | 3.84 g, Yield: 85% | C1C(CC2=CC=CC=C12)CCCC(=O)O | C13H16O2
